US09169254B2
(2,4-Dichloro-phenyl)-acetic acid (218 mg, 1.07 mmol), 1-ethyl-3-(3′-dimethylamino-propyl)carbodiimide hydrochloride (255 mg, 1.33 mmol), 1-hydroxybenzotriazole hydrate (136 mg, 0.88 mmol) and N,N-diisopropylethylamine (0.378 ml, 2.22 mmol) were sequentially added to a solution of 4-amino-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (200 mg, 0.888 mmol) in DMF (4 ml) at room temperature, and the mixture was stirred at room temperature for 16 hours. H2O (20 ml) was added to the reaction mixture, followed by extraction with AcOEt (40 ml and 20 ml). The organic layers were sequentially washed with H2O (20 ml), 1 N HCl (20 ml), H2O (20 ml) and saturated brine (20 ml), and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/AcOEt) to give 4-cyano-4-[2-(2,4-dichloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester as a white powder (285 mg, 78%).

reactant | (2,4-Dichloro-phenyl)-acetic acid | 1.07 mmol, 218 mg | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | 1-ethyl-3-(3′-dimethylamino-propyl)carbodiimide hydrochloride | 1.33 mmol, 255 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.88 mmol, 136 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 2.22 mmol, 0.378 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-amino-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 0.888 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)N | C11H19N3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | H2O | 20 ml | O | H2O
product | 4-cyano-4-[2-(2,4-dichloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester | 285 mg, 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(CC1=C(C=C(C=C1)Cl)Cl)=O)C#N | C19H23Cl2N3O3
